US09278910B2
Prepared using General Procedure 8. To a stirring solution of methyl 2-((tert-butoxycarbonyl)(4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)amino)acetate INT-76 (518 mg, 1.01 mmol) in DCM (10 mL) was added TFA (1 mL) at room temperature. After 2 h the reaction mixture was evaporated to dryness. The crude product was purified by chromatography, eluting with 0.7 M ammonia in MeOH/DCM. The mixture was concentrated in vacuo to afford 272 mg (65%) of methyl 2-((4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)amino)acetate INT-77 as a white solid. LCMS-ESI (m/z) calculated for C25H23N3O3: 413; found 414 [M+H]+, tR=1.89 min (Method 10). Compound 495 was prepared from INT-77 and INT-23 using General Procedures 6 then 9. Compound 498 was prepared from INT-77 and INT-15 using General Procedures 6 then 9.

reactant | methyl 2-((tert-butoxycarbonyl)(4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)amino)acetate | C(C)(C)(C)OC(=O)N(CC(=O)OC)CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C30H31N3O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-((4-(5-(4′-methyl-[1,1′-biphenyl]-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)amino)acetate | 272 mg, 65% | CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC(=NO1)C1=CC=C(CNCC(=O)OC)C=C1 | C25H23N3O3
